data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1(CCCC2(C1C(C=C3C2(C(OC3)O)O)[OH+:11][Si-:10](C)(C)(C(C)(C)C)F)C)C.CC[N+](CC)(CC)CC.CC(C)(C)[Si](C)(C)F.[OH-]>>CC1(CCCC2(C1C(C=C3C2(C(OC3)O)O)[OH:11])C)C.CC(C)(C)[Si:10](C)(C)F.CC[N+](CC)(CC)CC.CC(C)(C)[Si](C)(C)F.[OH-] 10,11=11
CCO[C:11](=[CH:10]C(=O)C)[O-:12].C1C[CH:20]=[CH:21][C:22](=[O:23])C1>>CCO[C:11](=[O:12])[CH:10]([CH:20]1CCC[C:22](=[CH:21]1)[O-:23])C(=O)C 10,11=10,20;12=11;22,23=23;20,21=21,22
CCCCCC1=CC(=C[C:11](=[CH:10]1)O)O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=CC(=C[C+:11]([CH:10]1[CH2:20]C=C(C)C)O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20
[H:20][O+:21]=C(CCOCC)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])CCOCC 10=20;20,21=21
CC[OH:10].C[C:20](=[O:21])Cl>>CC[OH+:10][C:20](C)([O-:21])Cl 10=20;20,21=21
[H:20][C:21]1(C(C(=C([NH+:23]=[C:22]1C)C)C(=O)OCC)C2=C(ON=C2C)CCC3=CC(=CC=C3)Br)C(=O)OCC.[NH3:10].CCO.O>>CCOC(=O)C1=C([NH:23][C:22](=[C:21](C1C2=C(ON=C2C)CCC3=CC(=CC=C3)Br)C(=O)OCC)C)C.[H:20][NH3+:10].CCO.O 10=20;22,23=23;20,21=21,22
CC(C)O[Al:20](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)OC(C)C.CN1CCC(=[O:10])CC1.CC(C)O>>CC(C)O[Al-:20](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)[O+:10]=C5CCN(CC5)C.CC(C)O 10=20,
C(=C([N+](=O)[O-])[N+](=O)[O-])([NH2+:21][C:20](=O)[O-:10])NC(=O)O.C([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)O>>C(=C([N+](=O)[O-])[N+](=O)[O-])([NH2:21])NC(=O)O.[C:20](=O)=[O:10].C([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)O 10=20;20,21=21
[H:10][B-:11](OC(=O)C)(OC(=O)C)OC(=O)C.CN1CC[C:20](=[N+:21]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)CC1.CC(=O)[O-].O.[Na+]>>[H:10][C:20]1(CCN(CC1)C)[N:21]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7.[B:11](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].O.[Na+] 10,11=10,20;20,21=21
[CH2:10]=[N+:11]=[N-:12].C1CC[C:20](=[O:21])CC1>>C1CC[C:20](CC1)([CH2:10][N+:11]#[N:12])[O-:21] 10,11=10,20;20,21=21;12=11
C[P:10](C)C.[OH:20][OH:21]>>C[P+:10](C)(C)[OH:20].[OH-:21] 10=20;20,21=21
C(=[O:10])S.Cl[Ti:20](Cl)(Cl)Cl>>C(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)S 10=20,
C[N:10](C)[CH:20]([OH+:21]C)OC.CC(=O)C1=CC=C(C=C1)Cl.C1(=NN=NN1)N.[O-]S(=O)(=O)[O-].[Cl-]>>C[N+:10](=[CH:20]OC)C.C[OH:21].CC(=O)C1=CC=C(C=C1)Cl.C1(=NN=NN1)N.[O-]S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
C1CN(CC[C:20]12[OH+:21]CC[O:10]2)C3=CC=C(C=C3)C#N.C1CCOC1.O.OS(=O)(=O)[O-]>>C1CN(CC[C:20]1=[O+:10]CC[OH:21])C2=CC=C(C=C2)C#N.C1CCOC1.O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CC(O)(O)[O:10]C>>[H:20][O+:10](C)C(C)(O)O.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC[CH:10]=[CH:11][NH:12]C>>[H:20][CH:10](COCC)[CH:11]=[NH+:12]C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC6CC6)O)N.[OH-:10].C(COCCO)O.O>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(=[N:21]N)CC5)O)C=C1.C(COCCO)O.O 10=20;20,21=21
[H:20][C:21]1(C=CC(=C([CH+:22]1)[NH+](C)C)Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[NH+](C)C1=C(C=C[C:21](=[CH:22]1)[N+](=O)[O-])Br 10=20;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])CC1=CC=CC=C1)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)C[C:22](=[CH:21][N+](=O)[O-])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl.[H:10][K:11]>>C1CC2CC1C3C4CC=CC4C2(C3[O-:21])Cl.[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
CC=CCO[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].CC=CCO[S:20](=O)(=[O:10])C(F)(F)F 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC(C)CC[OH:10]>>[H:20][OH+:10]CCC(C)C.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][O+:21]1C2C(=CC(C(O2)COCCCC)OCCCC)CC3=C1C=CC(=C3)C.CCCC[O-:10].B(F)(F)F.CC(=O)O>>[H:20][O:10]CCCC.CCCCOCC1C(C=C2CC3=C(C=CC(=C3)C)[O:21]C2O1)OCCCC.B(F)(F)F.CC(=O)O 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]O.CC(C[OH:10])Br>>[H:20][OH+:10]CC(C)Br.C[CH:21]=[CH:22]O 10=20;20,21=21,22
[H:20][O:21]CC.CC1(CCC(=[O:10])C=C1O)C>>[H:20][O+:10]=C1CCC(C(=C1)O)(C)C.CC[O-:21] 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)C[OH:10])OC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-])OCC3=CC=CC=C3)OC>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CC4=CC5=CC(=CC(=C5C(=C4Br)OC)OC)OC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-])OCC3=CC=CC=C3)OC 10=20,
CC(C(=O)NCC(=O)NC(C)C(=O)O)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NCC(=O)NC(C)C(=O)O)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)(CC)C(=O)C4CCCC5=C(C4=O)C=CC=C5.[OH-:10]>>[H:20][OH:10].CCC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)OP(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:21] 10=20;20,21=21
CC(C)(C(C)(C)[O+:21]=[CH:20]C1=CC=C(C=C1)[N+](=O)[O-])[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1(C([O:21][CH:20]([OH+:10]1)C2=CC=C(C=C2)[N+](=O)[O-])(C)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
CO[PH:10]([N:11]1C=NN=N1)(OC)OC>>CO[PH+:10](OC)OC.C1=NN=N[N-:11]1 10,11=11
